US07687515B2
A suspension of 6-chloro-2-dimethylamino-1H-imidazo[4,5-c]pyridine-4-carbonitrile (100 mg, 0.45 mmol), 4-ethoxy-3-trifluoromethyl-phenyl boronic acid (198 mg, 0.88 mmol) tetrakis(triphenylphosphine)palladium(0) (50 mg, ˜10 mol %) and potassium carbonate (193.0 mg, 1.39 mmol) in THF (3 ml) was heated to 130° C. for 6 minutes in the “Smith” microwave. The crude mixture was concentrated under reduced pressure to remove THF before partitioning between ethyl acetate and water. The organic layer was separated, dried over sodium sulfate and concentrated under reduced pressure. The material was then dissolved in DMSO and purified in aliquots by preparative HPLC. The desired fractions were collected and concentrated to give a white solid which was washed with ether to afford 2-dimethylamino-6-(4-ethoxy-3-trifluoromethyl-phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile (5.0 mg)

reactant | 6-chloro-2-dimethylamino-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 0.45 mmol, 100 mg | ClC1=CC2=C(C(=N1)C#N)N=C(N2)N(C)C | C9H8ClN5
reactant | 4-ethoxy-3-trifluoromethyl-phenyl boronic acid | 0.88 mmol, 198 mg | C(C)OC1=C(C=C(C=C1)B(O)O)C(F)(F)F | C9H10BF3O3
reactant | potassium carbonate | 1.39 mmol, 193.0 mg | C([O-])([O-])=O.[K+].[K+]
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 2-dimethylamino-6-(4-ethoxy-3-trifluoromethyl-phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile | 5.0 mg | CN(C=1NC2=C(C(=NC(=C2)C2=CC(=C(C=C2)OCC)C(F)(F)F)C#N)N1)C | C18H16F3N5O
